US06235731B1
3) Synthesis of 1-(3-phenylpropan-1-yl)piperidin-3-ylmethylamine dihydrochloride
In 50 ml of methanol was dissolved 8.902 g of N-tert-butoxycarbonyl-[1-(3-phenylpropan-1-yl)piperidin-3-ylmethyl]amine, followed by addition of 10 ml of concentrated hydrochloric acid, and the mixture was stirred at room temperature for 3 hours. This reaction mixture was concentrated to provide the title compound.

reactant | N-tert-butoxycarbonyl-[1-(3-phenylpropan-1-yl)piperidin-3-ylmethyl]amine | 8.902 g | C(C)(C)(C)OC(=O)NCC1CN(CCC1)CCCC1=CC=CC=C1 | C20H32N2O2
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 1-(3-phenylpropan-1-yl)piperidin-3-ylmethylamine dihydrochloride | Cl.Cl.C1(=CC=CC=C1)CCCN1CC(CCC1)CN | InChI=1S/C15H24N2.2ClH/c16-12-15-9-5-11-17(13-15)10-4-8-14-6-2-1-3-7-14;;/h1-3,6-7,15H,4-5,8-13,16H2;2*1H
